US06649627B1
4-ter-Butoxycarbonylamino-piperidine
25 g (0.13 mole) of 4-amino-1-benzylpiperidine, 36.2 ml (0.26 mole) of triethylamine and 31.2 g (0.143 mole) of di-ter-butyl-dicarbonate are mixed at room temperature for 2 hours in 200 ml of dimethylformamide. The mixture is poured into water, extracted with ethyl acetate, washed with water and the product obtained crystallised in 200 ml of isopropyl ether. This produces 33 g of 1-benzyl-4-ter-butoxycarbonylamino-piperidine which is hydrogenated in a mixture of 200 ml of ethanol and 100 ml of tetrahydrofurane in the presence of 3 g of 10% Pd/C. After filtering the catalyst, the named compound is isolated; M. P. 157-160° C.

reactant | 4-amino-1-benzylpiperidine | 0.13 mole, 25 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | triethylamine | 0.26 mole, 36.2 ml | C(C)N(CC)CC | C6H15N
reactant | di-ter-butyl-dicarbonate | 0.143 mole, 31.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-ter-Butoxycarbonylamino-piperidine | C(C)(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
